US07528147B2
0.052 cm3 of triethylamine and 0.265 cm3 of 4-(trifluoromethoxy)benzenesulfonyl chloride are added to a solution of 0.200 g of (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amine in 6 cm3 of dichloromethane, under an argon atmosphere, at a temperature in the region of 20° C. The reaction medium is stirred at this same temperature for 24 hours. 2 cm3 of water are added. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. After purification by flash-pack chromatography (SiO2, dichloromethane/methanol 98/02 by volume as eluent), 0.210 g of N-(2,4-dim ethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide is obtained, the characteristics of which are as follows:

reactant | triethylamine | 0.052 cm3 | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethoxy)benzenesulfonyl chloride | 0.265 cm3 | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amine | 0.200 g | COC1=C(CNCC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C35H36N4O6S
reactant | water | 2 cm3 | O | H2O
solvent | dichloromethane | 6 cm3 | ClCCl | CH2Cl2
product | N-(2,4-dim ethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide | 0.210 g | COC1=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC(F)(F)F)CC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C42H39F3N4O9S2
